* source LAB05_BILLINGS
.EXTERNAL OUTPUT PORTLEFT-L
U_D         STIM(1,0) $G_DPWR $G_DGND N01514 IO_STM STIMULUS=D
X_U4_U2C         PORTLEFT-L U4_N00734 U4_N00545 PORTLEFT-L $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4_U1A         U4_N00661 U4_N00411 U4_N00381 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4_U2A         U4_N00381 U4_N00560 U4_N00545 U4_N00411 $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4_U3A         U4_N00734 U4_N00766 U4_N00545 U4_N00661 $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4_U1B         U4_N00411 PORTLEFT-L PORTLEFT-L $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4_U2B         U4_N00411 U4_N00560 U4_N00661 U4_N00734 $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_RESET         STIM(1,0) $G_DPWR $G_DGND N01526 IO_STM STIMULUS=RESET
U_Clk         STIM(1,0) $G_DPWR $G_DGND N01510 IO_STM STIMULUS=Clk
