* source LAB05_BILLINGS
.EXTERNAL OUTPUT Q
.EXTERNAL OUTPUT Q_not
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00197 IO_STM STIMULUS=Clear_n
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00173 IO_STM STIMULUS=Clock
X_U1_U2C         Q U1_N00734 N00197 Q_NOT $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U2A         U1_N00381 N00173 N00197 U1_N00411 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U1A         U1_N00661 U1_N00411 U1_N00381 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U3A         U1_N00734 N00185 N00197 U1_N00661 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U1B         U1_N00411 Q_NOT Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U2B         U1_N00411 N00173 U1_N00661 U1_N00734 $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00185 IO_STM STIMULUS=D
